US07432287B2
Preparation of N-(1-ethyl-1H-pyrazol-3-yl)-5-(2-hydroxy-1-methyl-ethoxy)-3-(6-methanesulfonylpyridin-3-yloxy)benzamide
The compound of Production Example 142 was obtained as a white amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-methanesulfonylpyridine, (2R)-1-(tert-butyldimethylsiloxy)-2-hydroxypropane and 3-amino-1-ethyl-1H-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-methanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
reactant | (2R)-1-(tert-butyldimethylsiloxy)-2-hydroxypropane | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 3-amino-1-ethyl-1H-pyrazole | NC1=NN(C=C1)CC | C5H9N3
product | N-(1-ethyl-1H-pyrazol-3-yl)-5-(2-hydroxy-1-methyl-ethoxy)-3-(6-methanesulfonylpyridin-3-yloxy)benzamide | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)OC(CO)C)OC=1C=NC(=CC1)S(=O)(=O)C)=O | C21H24N4O6S
